US07585886B2
The thus obtained 4-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-4-oxobutanoic acid was subjected to Boc-elimination with 4 M hydrogen chloride/ethyl acetate to obtain 4-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-4-oxobutanoic acid hydrochloride.

reactant | 4-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-4-oxobutanoic acid | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(CCC(=O)O)=O | C32H38N2O5
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
product | 4-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-4-oxobutanoic acid hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(CCC(=O)O)=O | InChI=1S/C27H30N2O3.ClH/c1-19(23-13-7-11-20-10-5-6-12-24(20)23)28-16-22-17-29(26(30)14-15-27(31)32)18-25(22)21-8-3-2-4-9-21;/h2-13,19,22,25,28H,14-18H2,1H3,(H,31,32);1H/t19-,22+,25-;/m1./s1
